US04197411
2-Acetoxymethyl-3-methyl-3-formyl-bicyclo[2.2.1]hept5-ene
66 g (1 mole) of freshly distilled cyclopentadiene, 71 g (0.5 mole) of 3-formyl-crotyl acetate and 1 g of hydroquinone were heated for 10 hours at 160° C. under nitrogen in a 1 liter stirred autoclave. The reaction mixture was then subjected to fractional distillation, given 65 g of the product (yield: 62%).

reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | 3-formyl-crotyl acetate | 0.5 mole, 71 g | C(C)(=O)OCC=C(C)C=O | C7H10O3
reactant | hydroquinone | 1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 2-Acetoxymethyl-3-methyl-3-formyl-bicyclo[2.2.1]hept5-ene | 65 g, yield: 62% | C(C)(=O)OCC1C2C=CC(C1(C=O)C)C2 | C12H16O3
